US08609688B2
N,N-Dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine-2-carboxamide
A mixture of 4-(3-bromophenyl)-N,N-dimethyl morpholine-2-carboxamide (424 mg, 1.35 mmol), bis(pinacolato)diboron (378 mg, 1.49 mmol), Pd(dppf)Cl2.DCM (221 mg, 0.271 mmol) and potassium acetate (411 mg, 4.06 mmol) in dioxane (10 mL) was heated at 80° C. for 11.5 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=90:10→33:67→50:50) to afford desired product (309 mg, 63.4%) as orange solid.

reactant | 4-(3-bromophenyl)-N,N-dimethyl morpholine-2-carboxamide | 1.35 mmol, 424 mg | BrC=1C=C(C=CC1)N1CC(OCC1)C(=O)N(C)C | C13H17BrN2O2
reactant | bis(pinacolato)diboron | 1.49 mmol, 378 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.271 mmol, 221 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 4.06 mmol, 411 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-Dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine-2-carboxamide | 309 mg, 63.4% | CN(C(=O)C1CN(CCO1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C19H29BN2O4
